US06245761B1
Preparation of 4-(2-fluorobenzyloxy)-N-(t-butoxycarbonyl)-N-(isopropyl)butylamine
A solution of N-(t-butoxycarbonyl)-4-hydroxy-N-isopropylbutylamine (539 mg, 2.33 mmol) in tetrahydrofuran (11 ml) at −40° C. was treated with potassium t-butoxide (1 M in tetrahydrofuran, 2.54 ml, 2.54 mmol). After 40 minutes, the suspension was cooled to −78° C. and treated with a solution of 2-fluorobenzyl bromide (400 mg, 2.12 mmol) in tetrahydrofuran (4 ml). The reaciton was slowly warmed to room temperature and stirred for about five hours. The reaction was diluted with methylene chloride and washed with 1 M potassium carbonate and brine. The organic fraction was dried over sodium sulfate, filtered, and concentrated. The crude oil was purified by liquid chromatography to yield 555 mg (77%) of the title intermediate as a clear oil.

reactant | N-(t-butoxycarbonyl)-4-hydroxy-N-isopropylbutylamine | 2.33 mmol, 539 mg | C(C)(C)(C)OC(=O)N(C(C)C)CCCCO | C12H25NO3
reactant | potassium t-butoxide | 2.54 mmol, 1 M, 2.54 ml | CC(C)([O-])C.[K+]
reactant | 2-fluorobenzyl bromide | 2.12 mmol, 400 mg | FC1=C(CBr)C=CC=C1 | C7H6BrF
solvent | tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(2-fluorobenzyloxy)-N-(t-butoxycarbonyl)-N-(isopropyl)butylamine | 555 mg, 77% | FC1=C(COCCCCN(C(C)C)C(=O)OC(C)(C)C)C=CC=C1 | C19H30FNO3
